US07208513B2
A. N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)2-phenylacetamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.125 g, 0.207 mmol), in tetrahydrofuran (5 mL), were added, phenyl acetyl chloride (0.049 g, 0.315 mmol, 0.025 mL) and triethyl amine (0.107 g, 1.06 mmol, 0.147 mL). The reaction mixture was stirred at room temperature for 12 hours. After evaporation of the solvent, the residue was dissolved in 10 mL of ethyl acetate and was washed 3 times with water (5 mL). The crude was used without further purification (0.186 g, 99% yield): ES-MS (m/z) 721 [M+1]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.207 mmol, 0.125 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | phenyl acetyl chloride | 0.315 mmol, 0.025 mL, 0.049 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethyl amine | 1.06 mmol, 0.147 mL, 0.107 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)2-phenylacetamide | 99% yield | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(CC1=CC=CC=C1)=O | C47H40N6O2
